US05284847
Di-t butyl-4-phenylthiophene-2,3-dicarbamate
2-t-Butoxycarbonylamino-4-phenylthiophene-3-carboxylic acid (2.6 g, 8 mmol) was dissolved in 5 ml of tetrahydrofuran and 1.05 ml (10.4 mmol) of triethylamine, and diphenylphosphoryl azide (2.42 g, 8.8 mmol) was added. A heavy precipitate was formed, and after 1 hour at 25° C., 80 ml of dry tert-butanol was added and the mixture heated at 90° C. for eight days. The dark reaction mixture was evaporated, dissolved in methylene chloride, washed twice with IN sodium hydroxide, twice with 1N hydrochloric acid, and twice with water. Treatment of the organic phase with charcoal and evaporation yielded 1.9 g of dark oil which was not further purified, but used for the next step. 1H-NMR (CDCl3, δ) : 1. 5 (s, 3H) , 6. 8 (s, 1H), 7.4 (m, 5H).

reactant | 2-t-Butoxycarbonylamino-4-phenylthiophene-3-carboxylic acid | 8 mmol, 2.6 g | C(C)(C)(C)OC(=O)NC=1SC=C(C1C(=O)O)C1=CC=CC=C1 | C16H17NO4S
reactant | triethylamine | 10.4 mmol, 1.05 ml | C(C)N(CC)CC | C6H15N
reactant | diphenylphosphoryl azide | 8.8 mmol, 2.42 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | tert-butanol | 80 ml | C(C)(C)(C)O | C4H10O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | Di-t butyl-4-phenylthiophene-2,3-dicarbamate | 1.9 g | C(C)(C)(C)OC(NC=1SC=C(C1NC(=O)OC(C)(C)C)C1=CC=CC=C1)=O | C20H26N2O4S
